US06294547B1
Synthesis of 10-acetylamino-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine dihydrochloride
10-Methylcarbonylamino-2-t-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine (0.5 g, 1.47 mmol) was suspended in a mixture of dioxane (4.5 ml) and methanol (1 ml), followed by adding thereto 4N-hydrogen chloride/dioxane (7.35 ml) under ice-cooling, and the resulting mixture was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated to obtain the desired compound (0.369 g, quant.).

reactant | 10-Methylcarbonylamino-2-t-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine | 1.47 mmol, 0.5 g | CC(=O)NC1=C2C(=NC=3CCN(CC13)C(=O)OC(C)(C)C)C=CC=C2 | C19H23N3O3
reactant | hydrogen chloride dioxane | 7.35 ml | Cl.O1CCOCC1
solvent | dioxane | 4.5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 1 ml | CO | CH4O
product | 10-acetylamino-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine dihydrochloride | 0.369 g | Cl.Cl.C(C)(=O)NC1=C2C(=NC=3CCNCC13)C=CC=C2 | InChI=1S/C14H15N3O.2ClH/c1-9(18)16-14-10-4-2-3-5-12(10)17-13-6-7-15-8-11(13)14;;/h2-5,15H,6-8H2,1H3,(H,16,17,18);2*1H
